US04127606
N-[[2-[3-(Dimethylamino)propoxy]phenyl]methyl]-N-(2-phenylethyl)methanesulfonamide, hydrochloride (1:1)
A stirred solution of 10 g of N-[[2-[3-(dimethylamino)propoxy]phenyl]methyl]benzeneethanamine in 50 ml of chloroform as treated dropwise at 10° to 15° C. with 2.7 ml of methanesulfonyl chloride dissolved in 50 ml of chloroform, stirred for 1 hour at room temperature (some solid separates), refluxed for 1 hour (solution obtained), and maintained at room temperature for about 16 hours.

reactant | N-[[2-[3-(dimethylamino)propoxy]phenyl]methyl]benzeneethanamine | 10 g | CN(CCCOC1=C(C=CC=C1)CNCCC1=CC=CC=C1)C | C20H28N2O
reactant | methanesulfonyl chloride | 2.7 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[[2-[3-(Dimethylamino)propoxy]phenyl]methyl]-N-(2-phenylethyl)methanesulfonamide, hydrochloride | Cl.CN(CCCOC1=C(C=CC=C1)CN(S(=O)(=O)C)CCC1=CC=CC=C1)C | InChI=1S/C21H30N2O3S.ClH/c1-22(2)15-9-17-26-21-13-8-7-12-20(21)18-23(27(3,24)25)16-14-19-10-5-4-6-11-19;/h4-8,10-13H,9,14-18H2,1-3H3;1H
